US09359338B2
Step 1: Synthesis of N-[3-nitro-5-(trifluoromethyl)phenyl]prop-2-enamide
Dissolve 3-nitro-5-(trifluoromethyl)aniline (150 mg, 0.73 mmol), triethylamine (220 mg, 2.18 mmol) in DCM (8 mL), cool to 0° C. at ice bath, add slowly acryloyl chloride (198 mg, 2.18 mmol). After addition, stir the reaction at room temperature for 2 hrs. Pour the mixture into water (30 mL), extract with EtOAc (10 mL×3), combine the organic layers; wash with brine (50 mL), dry over anhydrous Na2SO4. Concentrate under reduced pressure to give the crude product (190 mg) which is used without further purification.

reactant | 3-nitro-5-(trifluoromethyl)aniline | 0.73 mmol, 150 mg | [N+](=O)([O-])C=1C=C(N)C=C(C1)C(F)(F)F | C7H5F3N2O2
reactant | triethylamine | 2.18 mmol, 220 mg | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 2.18 mmol, 198 mg | C(C=C)(=O)Cl | C3H3ClO
reactant | water | 30 mL | O | H2O
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | N-[3-nitro-5-(trifluoromethyl)phenyl]prop-2-enamide | 190 mg | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)NC(C=C)=O | C10H7F3N2O3
